US07977344B2
2-[(2-Cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To a stirring solution of sodium tert.-butoxide (13.45 g) in DME (80 ml) was added dropwise under nitrogen a solution of 2-cyclopropylethanol (12.1 g) in DME (40 ml) over 5 min. After 30 min 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (11.84 g) was added and the stirring mixture refluxed for 20 h. After cooling the mixture was treated with water and extracted twice with ethyl acetate. The combined extracts were washed with water then brine, dried by passing through a hydrophobic frit and evaporated to a brown oil. This was re-evaporated twice from toluene then purified on a silica column using an ISCO Companion, eluting with methanol:ethyl acetate (0-12%) to give the title compound. Yield 6.53 gm.

reactant | sodium tert.-butoxide | 13.45 g | CC(C)([O-])C.[Na+]
reactant | 2-cyclopropylethanol | 12.1 g | C1(CC1)CCO | C5H10O
reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 11.84 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
reactant | water | O | H2O
solvent | DME | 80 ml | COCCOC | C4H10O2
solvent | DME | 40 ml | COCCOC | C4H10O2
product | 2-[(2-Cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | C1(CC1)CCOC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H21N5O2
